US09370517B2
Step 1: 5,7-Diethyl-3-phenylpyrazolo[1,5-a]pyrimidin-2-ol
2-Cyano-2-phenylacetohydrazide [Int-1A] (8.40 g, 43.2 mmol, 1.0 eq) and heptane-3,5-dione (5.85 mL, 43.2 mmol, 1.0 eq) were dissolved in 140 mL acidic acid and stirred for 4.5 h at 60° C. The resulting suspension was cooled to rt and the precipitate was isolated by filtration. The solid was washed with hexane and dried to give 4.17 g (29% yield) of the title compound.

reactant | 2-Cyano-2-phenylacetohydrazide | 43.2 mmol, 8.40 g, 1.0 eq | C(#N)C(C(=O)NN)C1=CC=CC=C1 | C9H9N3O
reactant | heptane-3,5-dione | 43.2 mmol, 5.85 mL, 1.0 eq | CCC(CC(CC)=O)=O | C7H12O2
product | 5,7-Diethyl-3-phenylpyrazolo[1,5-a]pyrimidin-2-ol | 4.17 g, 29% yield | C(C)C1=NC=2N(C(=C1)CC)N=C(C2C2=CC=CC=C2)O | C16H17N3O
